**Netlist  of an Xband MMIC LNA  (LMA 411)
**Low noise phemt lna using 0.25um technology
**First amplifier is 300um (6x50um) thick and second is 400 um thick
**DC supply of 6 volts
**GaAs substrate thickness 100 um, silicon nitride passivation:
**Standard thickness 1,000 ang
**Litton process 
**spiral inductor modeled as regular inductor

.options sparse = 1 errfunc=1
*.analysis dc device=vsin:vin param=vdc start=-.1 stop=.1 num=50 
.analysis tran tstep= 3ps tstop=.3ns shell=0 im=trap

* Input: 2 , output: 26
.plot dc 51 192 2 26
.plot tran 51 192 2 26
*.plot tran 51 42 62

.model m_line1 tlinpy4 (z0mag = 95.7 k=7.55 fscale=10e9 alpha=773 nsect=20 fopt=10e9 tand=0.006)
.model m_line2 tlinpy4 (z0mag= 81.9  k=7.73 fscale=10e9 alpha=78 nsect=20 fopt=10e9 tand=0.006)
.model m_line3 tlinpy4 (z0mag = 76.2 k=7.82 fscale=10e9 alpha= 156 nsect=20 fopt=10e9 tand=0.006)

cap:c1 2 3 c=6e-12
tlinpy4:t1 3 0 0 0 model=m_line1 length = 1194u
tlinpy4:t2 3 0 4 0 model=m_line2 length = 183u

mesfetc:m1 51 42 62  a0=0.09910 a1=0.08541  a2=-0.02030 a3=-0.01543 beta=0.01865 gama=0.8293 vds0=6.494 vt0=-1.2 vbi=0.8  cgd0=3f cgs0=528.2f isat=3e-12 nr=1.2 tau=1ps  vbd=12 area=6

res:rg1 41 42 r=0.83
res:rd1 5 51 r=0.83
res:rs1 61 62 r=0.33

ind:lg1 4 41 l=7e-12
ind:ls1 6 61 l=11e-12

tlinpy4:t3 6 0 8 0 model=m_line2 length=391u
tlinpy4:t4 6 0 7 0 model=m_line2 length=401u

cap:c_via4 7 0 c=17e-12
res:r_via4 7 0 r=6
cap:c_via3 8 0 c=17e-12

tlinpy4:t5 5 0 9 0 model=m_line2 length=102u
tlinpy4:t6 9 0 10 0 model=m_line1 length=368u

res:r1 10 11 r=10.53
res:r2 11 12 r = 61.53
cap:c_s6 11 0 c=17e-12
*res:rc 111 0 r=50

tlinpy4:t7 9 0 13 0 model=m_line2 length=33u
cap:c2 13 14 c=2e-12

tlinpy4:t8 14 0 15 0 model=m_line1 length=705u
tlinpy4:t9 14 0 0 0 model=m_line2 length=419u
tlinpy4:t10 14 0 17 0 model=m_line2 length=58u 

mesfetc:m2 192 172 182 a0=0.1321 a1=0.1085 a2=-0.04804 a3=-0.03821 beta=0.03141 gama=0.7946 vds0=5.892 vt0=-1.2 vbi=1.5 cgd0=4e-15 cgs0=695.2f isat=4e-12 n=1.2 tau=1ps vbd=12 area=8

res:rg2 171 172 r=0.63
res:rd2 191 192 r=0.63
res:rs2 181 182 r=0.25

ind:lg2 17 171 l=16e-12
ind:ld2 19 191 l=11e-12
ind:ls2 18 181 l=11e-12
cap:c_via8 18 0 c=17p
res:r_via8 18 0 r=8
tlinpy4:t11 19 0 20 0 model=m_line1 length=138u
cap:cfb 20 21 c=4.28e-12
res:rfb 21 22 r=237.4

*.ref 0
*NPortFoster1:f1 22 0 15 0
*+ filename = filtronicsind.yp ports = 2 poles1 = 2 poles2 = 4

ind:lfb 22 15 l=1.268n 
*int_res=9.55
tlinpy4:t12 19 0 23 0 model=m_line1 length=313u

*NPortFoster1:f2 23 0 24 0
*+ filename = filtronicsind.yp ports = 2 poles1 = 2 poles2 = 4

ind:lp 23 24 l=1.268n 
* int_res=1.55
res:rpad 24 29 r=24.93
*res:rdc 29 30 r=20
cap:c_via12 24 0 c=17e-12
tlinpy4:t13 19 0 25 0 model=m_line3 length=229u
cap:cload 25 26 c=6e-12
res:r50 26 0 r=50

vdc:v1 12 0 vdc=6
vdc:v2 29 0 vdc=6
vsin:vin 2 0 freq=10e9 mag=2.5 phase=-90 rint=50.

.end
